datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[CH:10]1=[CH:11][CH:12]=[CH:13][O:14]1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[O+:14]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([S:61](/[CH:10]=[C:11]2\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]2)(=[O:62])=[O:72])C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[N:10]1=[C:11]([O-:12])[CH:64]=[CH:63][CH:62]=[CH:61]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:11](=[O:12])[CH:64]=[CH:63][CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[C:61](=[O:62])CC[C:71]2=[O:72])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"COC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:72]2)C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1.COC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:72]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si:11]1([H:10])CCC1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si+:11]1CCC1 10,11=10,20"
"CC[O:62]/[C:11](=[CH:10]/[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[O-:12].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CC[O:62][C:11]([CH:10]([CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CCC[Si:11](CCC)(CCC)[H:10].COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CCC[Si+:11](CCC)CCC.COC1=CC=C([CH:20]([H:10])[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.C[Si](C)(C)[O:71][C:10]1=[C:11]([O:12][Si:63](C)(C)C)CCCC1>>C[Si](C)(C)[O:71][C:10]1([C:20]2(C)CC[C:22]([O-:23])=[CH:21]2)CCCC[C:11]1=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)O1 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[N:12]1CCC[N:62](C)[C:11]1=[CH2:10]>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C:11]2=[N+:12](C)CCC[N:62]2C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
